US04698094
2,4-dichlorophenoxyacetic acid;
2-methyl-4-chlorophenoxyacetic acid; butyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionate (including esters and salts thereof); ethyl 2-[4-(6-chloro-2-quinoxalinyloxy)phenoxy]propionate; etc.

reactant | 2-methyl-4-chlorophenoxyacetic acid | CC1=C(OCC(=O)O)C=CC(=C1)Cl | C9H9ClO3
reactant | butyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)phenoxy]propionate | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)OCCCC)C)C=C1)(F)F | C19H20F3NO4
reactant | ethyl 2-[4-(6-chloro-2-quinoxalinyloxy)phenoxy]propionate | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C19H17ClN2O4
product | 2,4-dichlorophenoxyacetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
